US05053070
5.5 g of 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime and 7.1 g of propargyl bromide were dissolved in 100 ml of N,N-dimethylformamide containing 1.4 g of potassisum carbonate, and the solution was stirred at 100° C. for 4 hours. After the reaction mixture was allowed to cool down, it was poured into water, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (developer: n-hexane:ethyl acetate=10:1) to obtain 4.8 g of 0-(2-propynyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime as an oily substance.

reactant | 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime | 5.5 g | COC1=NC(=NC(=C1)OC)OC1=C(C=NO)C=CC=C1 | C13H13N3O4
reactant | propargyl bromide | 7.1 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml, 1.4 g | CN(C=O)C | C3H7NO
solvent | carbonate | C([O-])([O-])=O
product | 0-(2-propynyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime | 4.8 g | C(C#C)C1(C(C=NO)C=CC=C1)OC1=NC(=CC(=N1)OC)OC | C16H17N3O4
